US04579862
(c) Ethyl 6-[2-(1H-imidazol-1-yl)-1-[[(4-methoxyphenyl)methoxy]methyl]propoxy]hexanoate
To a solution of 1-[2-hydroxy-2-methyl-3-[(4-methoxyphenyl)methoxy]propyl]-1H-imidazole (3.2 g, 0.0116 mol) in dimethylsulphoxide (20 ml) at 10° C., potassium tert butoxide (2.1 g, 0.018 mol) was added in portions over 10 min. CAUTION (see, L. Bretherick, Royal Society of Chemistry, Hazards in the Chemical Laboratory, 3rd Ed. p. 307). After stirring for 5 mins. a solution of ethyl 6-bromohexanoate (2.58 g, 0.0116 mol) in dimethyl sulphoxide (5 ml) was added, the reaction mixture warmed to room temperature, and stirring continued for a further 45 min. The mixture was poured into water, neutralised with 1N hydrochloric acid and extracted with dichloromethane. The combined organic extracts were washed with water, dried (MgSO4) and solvent removed at reduced pressure. The title compound was isolated by column chromatography (silica gel, 3% ethanol in chloroform) as a yellow oil.

reactant | 1-[2-hydroxy-2-methyl-3-[(4-methoxyphenyl)methoxy]propyl]-1H-imidazole | 0.0116 mol, 3.2 g | OC(CN1C=NC=C1)(COCC1=CC=C(C=C1)OC)C | C15H20N2O3
reactant | potassium tert butoxide | 0.018 mol, 2.1 g | CC(C)([O-])C.[K+]
reactant | ethyl 6-bromohexanoate | 0.0116 mol, 2.58 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Ethyl 6-[2-(1H-imidazol-1-yl)-1-[[(4-methoxyphenyl)methoxy]methyl]propoxy]hexanoate | N1(C=NC=C1)C(C(OCCCCCC(=O)OCC)COCC1=CC=C(C=C1)OC)C | C23H34N2O5
